US08669361B2
Step 1: Preparation of [(R)-1-(4-{[5-tert-butoxycarbonylamino-2-(2-trifluoromethyl-phenyl)-thiazole-4-carbonyl]-amino}-2-methyl-2H-pyrazol-3-yl)-perhydro-azepin-4-yl]-carbamic acid benzyl ester
In a microwave vial was placed ((R)-1-{4-[(2-bromo-5-tert-butoxycarbonylamino-thiazole-4-carbonyl)-amino]-2-methyl-2H-pyrazol-3-yl}-perhydro-azepin-4-yl)-carbamic acid benzyl ester (132.7 mg, 0.205 mmol), 4,4,5,5-tetramethyl-2-(2-trifluoromethyl-phenyl)-1,3,2-dioxaborolane (278.3 mg, 1.02 mmol, 5.0 eq.), sodium carbonate (65.0 mg, 0.61 mmol, 3.0 eq.), potassium acetate (60.2 mg, 0.61 mmol, 3.0 eq.), [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II), complexed with dichloromethane (1:1) (33.4 mg, 0.041, mmol, 0.20 eq), ACN (10 mL), and water (2.5 mL). The reaction mixture was degassed with N2 for 10 minutes and then subjected to microwave irradiation at 100° C. for 40 minutes. The reaction mixture was diluted with ethyl acetate (50 mL) and then filtered through a pad of Celite. The filtrate was washed with 50% brine/water, water and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude was purified via flash column chromatography eluted with 50 to 100% ethyl acetate/heptane to give 83.9 mg (57.4%) of desired product as a foam. MS (ESI) m/z: 714.4 [M+H]+.

reactant | ((R)-1-{4-[(2-bromo-5-tert-butoxycarbonylamino-thiazole-4-carbonyl)-amino]-2-methyl-2H-pyrazol-3-yl}-perhydro-azepin-4-yl)-carbamic acid benzyl ester | 0.205 mmol, 132.7 mg | C(C1=CC=CC=C1)OC(N[C@H]1CCN(CCC1)C=1N(N=CC1NC(=O)C=1N=C(SC1NC(=O)OC(C)(C)C)Br)C)=O | C27H34BrN7O5S
reactant | 4,4,5,5-tetramethyl-2-(2-trifluoromethyl-phenyl)-1,3,2-dioxaborolane | 1.02 mmol, 278.3 mg, 5.0 eq. | CC1(OB(OC1(C)C)C1=C(C=CC=C1)C(F)(F)F)C | C13H16BF3O2
reactant | sodium carbonate | 0.61 mmol, 65.0 mg, 3.0 eq. | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium acetate | 0.61 mmol, 60.2 mg, 3.0 eq. | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 33.4 mg, 0.20 eq | ClCCl | CH2Cl2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | 2.5 mL | O | H2O
solvent | ACN | 10 mL | C(C)#N | C2H3N
product | [(R)-1-(4-{[5-tert-butoxycarbonylamino-2-(2-trifluoromethyl-phenyl)-thiazole-4-carbonyl]-amino}-2-methyl-2H-pyrazol-3-yl)-perhydro-azepin-4-yl]-carbamic acid benzyl ester | 83.9 mg, 57.4% | C(C1=CC=CC=C1)OC(N[C@H]1CCN(CCC1)C=1N(N=CC1NC(=O)C=1N=C(SC1NC(=O)OC(C)(C)C)C1=C(C=CC=C1)C(F)(F)F)C)=O | C34H38F3N7O5S
